US07816020B2
After this, 10.3 g (0.046 mole) of p-bromophenylhydrazine hydrochloride, 2.36 g (0.043 mole) of sodium methoxide, and 79.3 g of toluene were placed in a 300-ml four-necked flask. The mixture was then heated under reflux with stirring for three hours while distilling off methanol. To this reaction mixture was added 12.4 g (0.041 mole) of the 1,2,3-triphenylpropane-1,3-dione obtained above. After the addition, the mixture was heated under reflux with stirring for 20 hours. Upon completion of the reaction, the reaction mixture was cooled to room temperature and 39.7 g of water was added in drops. The reaction mixture was transferred to a separatory funnel and an organic layer was separated. The organic layer was concentrated under reduced pressure to dryness. The residue was purified by reslurrying with methanol and a solid was separated. To the solid was added 10.0 g of toluene in drops and the solid was dissolved by heating. To the resulting solution was added methanol in drops at 65° C. over a period of 30 minutes to effect precipitation. Thereafter, the mixture was cooled to room temperature and a solid was recovered by filtration. The solid was washed with methanol and dried under reduced pressure to give 10.2 g of 1-(p-bromophenyl)-3,4,5-triphenylpyrazole.

reactant | p-bromophenylhydrazine hydrochloride | 0.046 mole, 10.3 g | Cl.BrC1=CC=C(C=C1)NN
reactant | sodium methoxide | 0.043 mole, 2.36 g | C[O-].[Na+]
reactant | toluene | 79.3 g | C1(=CC=CC=C1)C | C7H8
reactant | 1,2,3-triphenylpropane-1,3-dione | 0.041 mole, 12.4 g | C1(=CC=CC=C1)C(C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16O2
solvent | water | 39.7 g | O | H2O
product | 1-(p-bromophenyl)-3,4,5-triphenylpyrazole | 10.2 g | BrC1=CC=C(C=C1)N1N=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H19BrN2
